US08003806B2
3-(1H-Benzimidazol-1-yl)-3-(4-ethylphenyl)propanoic acid
A suspension of ethyl 3-(1H-benzimidazol-1-yl)-3-(4-ethylphenyl)propanoate (180 mg, 559 μmol) in hydrochloric acid (10 mL of a 5N solution) was stirred at room temperature for 72 hours. A mixture of acetonitrile and methanol (10:1, 11 mL) was added, and the resulting solution stirred at room temperature for 110 hours. The solution was warmed to reflux for 24 hours, and evaporated in vacuo. The residue was taken up into aqueous sodium carbonate, and the resulting solution extracted with diethyl ether. The aqueous phase was acidified with dilute hydrochloric acid (pH<4), and extracted with dichloromethane. The combined dichloromethane extracts were evaporated in vacuo to afford the title compound, [LCMS (Method A, Mobile Phase I) RT=4.20 min, MH+ 296].

reactant | ethyl 3-(1H-benzimidazol-1-yl)-3-(4-ethylphenyl)propanoate | 559 μmol, 180 mg | N1(C=NC2=C1C=CC=C2)C(CC(=O)OCC)C2=CC=C(C=C2)CC | C20H22N2O2
reactant | acetonitrile | C(C)#N | C2H3N
reactant | methanol | 11 mL | CO | CH4O
solvent | hydrochloric acid | Cl | ClH
product | 3-(1H-Benzimidazol-1-yl)-3-(4-ethylphenyl)propanoic acid | N1(C=NC2=C1C=CC=C2)C(CC(=O)O)C2=CC=C(C=C2)CC | C18H18N2O2
